US06124323
To a solution of 3-[5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-2-oxo-propionic acid ethyl ester(37.77 g, 97.50 mmol) in methanol (370 ml) was added 1 N lithium hydroxide solution (230 ml, 0.23 mol). The deep red reaction mixture was stirred at 55° C. for 30 min and worked up to give [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-acetic acid (22.42 g, 69%) as an off-white solid. Analysis calculated for C17H17NO6 : C, 61.63; H, 5.17; N, 4.23. Found: C, 61.66; H, 5.08; N, 4.18.

reactant | 3-[5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-2-oxo-propionic acid ethyl ester | 97.50 mmol, 37.77 g | C(C)OC(C(CC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-])=O)=O | C20H21NO7
reactant | lithium hydroxide | 0.23 mol, 1 N, 230 ml | [OH-].[Li+]
solvent | methanol | 370 ml | CO | CH4O
product | [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-acetic acid | 22.42 g, 69% | C(C1=CC=CC=C1)OCCOC=1C=CC(=C(C1)CC(=O)O)[N+](=O)[O-] | C17H17NO6
